US06562807B2
4-[3-(3,5-Bis(trifluoromethyl)phenyl)-1-(4-cyclohexylphenyl)ureidomethyl]benzoic acid (0.22 g, 0.39 mmol) was dissolved in DMF (3 mL) and 1-hydroxy-7-azabenzotriazole (0.06 g, 0.47 mmol) and EDAC (0.09 g, 1.2 mmol) were added. The mixture was stirred for 1.5 hour, and (R)-isoserine ethyl ester (0.10 g, 0.59 mmol) and diisopropylethylamine (0.10 mL, 0.59 mmol) in DMF (2 mL) were added. The mixture was stirred at room temperature for 16 hours. The reaction mixture was diluted with water (10 mL) and extracted with ethyl acetate (25 mL). The aqueous phase was extracted with ethyl acetate (10 mL). The combined organic phases were washed with hydrochloric acid (0.2 N, 3×10 mL) and water:saturated sodium chloride (1:1), dried (magnesium sulphate) and concentrated in vacuo. The residue was purified by column chromatography (35 g silica gel) using ethyl acetate and n-heptane (6:4) as eluent to afford 0.27 g of (R)-3-{4-[3-(3,5-bis(trifluoromethyl)phenyl)-1-(4-cyclohexylphenyl)ureidomethyl]benzoylamino}-2-hydroxypropionic acid ethyl ester.

reactant | 4-[3-(3,5-Bis(trifluoromethyl)phenyl)-1-(4-cyclohexylphenyl)ureidomethyl]benzoic acid | 0.39 mmol, 0.22 g | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(N(C1=CC=C(C=C1)C1CCCCC1)CC1=CC=C(C(=O)O)C=C1)=O)(F)F | C29H26F6N2O3
reactant | 1-hydroxy-7-azabenzotriazole | 0.47 mmol, 0.06 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | EDAC | 1.2 mmol, 0.09 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | (R)-isoserine ethyl ester | 0.59 mmol, 0.10 g | C(C)OC([C@@H](CN)O)=O | C5H11NO3
reactant | diisopropylethylamine | 0.59 mmol, 0.10 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
product | (R)-3-{4-[3-(3,5-bis(trifluoromethyl)phenyl)-1-(4-cyclohexylphenyl)ureidomethyl]benzoylamino}-2-hydroxypropionic acid ethyl ester | 0.27 g | C(C)OC([C@@H](CNC(C1=CC=C(C=C1)CN(C(=O)NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=C(C=C1)C1CCCCC1)=O)O)=O | C34H35F6N3O5
